US07307084B2
T. 7-Hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
A solution of 3.0 g (7.2 mmol) 7-hydroxy-3-methyl-6-(3-oxo-3-phenyl-propyl)-2-trifluoromethyl-3H-benzimidazole-5-carboxylic acid dimethylamide in ethanol (100 ml) was treated with 324 mg (8.6 mmol) sodium borohydride and the reaction was stirred at room temperature for 3 h. A saturated ammonium chloride solution was added, the reaction was poured into water (100 ml) and extracted with dichloromethane. The organic layers were dried over magnesium sulphate and concentrated in vacuo to afford 3.0 g (98%) of the title compound as a brown foam.

reactant | 7-hydroxy-3-methyl-6-(3-oxo-3-phenyl-propyl)-2-trifluoromethyl-3H-benzimidazole-5-carboxylic acid dimethylamide | 7.2 mmol, 3.0 g | CN(C(=O)C1=CC2=C(N=C(N2C)C(F)(F)F)C(=C1CCC(C1=CC=CC=C1)=O)O)C | C21H20F3N3O3
reactant | sodium borohydride | 8.6 mmol, 324 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-Hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methyl-2-trifluoromethyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 3.0 g, 98% | CN(C(=O)C1=CC2=C(N=C(N2C)C(F)(F)F)C(=C1CCC(C1=CC=CC=C1)O)O)C | C21H22F3N3O3
